US05064946
5'-Acetyl-3'-azido-3-benzoyl-3'-deoxythymidine
5'-Acetyl-3'-azido-3'-deoxythymidine (0.75 g, 2.4 mMol) was dissolved in pyridine (5 mL) and benzoyl chloride (1.4 mL, 12 mMol, 5 eq.) was added at room temperature. The reaction was stirred overnight then poured onto ice water (250 mL). The pH of the aqueous solution was adjusted to 1. The product was extracted with chloroform. The organic phase was washed with water, dried with MgSO4 and filtered. The chloroform was removed and the oily product was flash chromatographed on silica gel eluted with chloroform. The product was collected as an oil.

reactant | 5'-Acetyl-3'-azido-3'-deoxythymidine | 2.4 mMol, 0.75 g | C(C)(=O)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)N=[N+]=[N-])O | C12H15N5O5
reactant | benzoyl chloride | 12 mMol, 1.4 mL, 5 eq. | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 5'-Acetyl-3'-azido-3-benzoyl-3'-deoxythymidine | C(C)(=O)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)N(C(=O)C(C)=C1)C(C1=CC=CC=C1)=O)N=[N+]=[N-])O | C19H19N5O6
